US08378104B2
Step A: 7-bromo-N,N-dimethyl-1,3-benzothiazol-2-amine
7-Bromo-2-chlorobenzothiazole (100 mg, 0.40 mmol) was added to dimethylamine (2.0 M in MeOH, 1 mL, 2 mmol) and the solution was heated at 70° C. for 1 h. The crude mixture was purified by ISCO chromatography (100% DCM) to afford 101 mg (98%) of the title compound as white solid. MS (ESI): 257.33, 259.36 [M+H]+; HPLC tR=1.40 min (HPLC: Anayltical—2 min).

reactant | 7-Bromo-2-chlorobenzothiazole | 0.40 mmol, 100 mg | BrC1=CC=CC=2N=C(SC21)Cl | C7H3BrClNS
reactant | dimethylamine | 2 mmol, 2.0 M, 1 mL | CNC | C2H7N
product | 7-bromo-N,N-dimethyl-1,3-benzothiazol-2-amine | 101 mg, 98% | BrC1=CC=CC=2N=C(SC21)N(C)C | C9H9BrN2S
